US04318913
3-[3-(1,3-Dioxolan-2-yl)phenoxy]propanamine
A solution of 2-[3-(3-formylphenoxy)propyl]-1H-isoindole-1,3-(2H)-dione (90 g) and p-toluenesulphonic acid, monohydrate (200 mg) in benzene (900 ml) and ethane-1,2-diol (25 g) was heated under reflux using a Dean-Stark separator for 8 h. The cooled solution was washed successively with sodium carbonate solution, water, sodium chloride solution, and evaporated in vacuo. The resulting oil was dissolved in tetrahydrofuran (1 liter) and stirred with hydrazine hydrate (50 ml) at room temperature for 24 hr. The mixture was diluted with ether and filtered. The filtrate was distilled to give the title compound as a colourless oil (55.2 g) b.p. 134°-6° (0.7 mm). TLC silica; methanol:ammonia 80:1; Rf 0.4.

reactant | 2-[3-(3-formylphenoxy)propyl]-1H-isoindole-1,3-(2H)-dione | 90 g | C(=O)C=1C=C(OCCCN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C18H15NO4
reactant | ethane-1,2-diol | 25 g | C(CO)O | C2H6O2
solvent | benzene | 900 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulphonic acid, monohydrate | 200 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 3-[3-(1,3-Dioxolan-2-yl)phenoxy]propanamine | 55.2 g | O1C(OCC1)C=1C=C(OCCCN)C=CC1 | C12H17NO3
